US08383652B2
26 g (186 mmol) of methyl chloromethoxyacetate and 32 mL (186 mmol) of triethyl phosphite are placed in a round-bottomed flask and heated at 150° C. for 3 hours. The reaction progress is monitored by NMR. The reaction medium is concentrated under vacuum. 45 g (100%) of methyl (diethoxyphosphoryl)methoxyacetate are obtained directly in the form of a colorless liquid.

reactant | methyl chloromethoxyacetate | 186 mmol, 26 g | ClCOCC(=O)OC | C4H7ClO3
reactant | triethyl phosphite | 186 mmol, 32 mL | P(OCC)(OCC)OCC | C6H15O3P
product | methyl (diethoxyphosphoryl)methoxyacetate | 45 g, 100% | C(C)OP(=O)(OCC)COCC(=O)OC | C8H17O6P
